US06340759B1
Synthesis of 1-(4-ethylpiperazin-1-yl)-3-[4-(3-hydroxy-1-methylpropyl)phenyl]isoquinoline oxalate
Subsequently, the resulting 1-(4-ethylpiperazin-1-yl)-3-[4-(1-ethoxycarbonylpropan-2-yl)phenyl]isoquinoline (0.69 g) was dissolved in tetrahydrofuran (10 ml). The solution was added to a suspension of lithium aluminum hydride (0.12 g) in tetrahydrofuran (20 ml) under cooling with a cooler of sodium chloride and ice, and the mixture was stirred for another 20 min. Water (120 ml), a 5N aqueous solution of sodium hydroxide (120 ml) and water (360 ml) were added to the reaction solution in this order, and then the resulting precipitates were filtered off. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography (toluene/acetone system), to give 0.32 g of the free compound of the title compound as a pale brown viscous oil.

reactant | 1-(4-ethylpiperazin-1-yl)-3-[4-(1-ethoxycarbonylpropan-2-yl)phenyl]isoquinoline | 0.69 g | C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)C(CC(=O)OCC)C | C27H33N3O2
reactant | lithium aluminum hydride | 0.12 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium chloride | [Cl-].[Na+]
reactant | sodium hydroxide | 120 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | water | 360 ml | O | H2O
solvent | Water | 120 ml | O | H2O
product | 1-(4-ethylpiperazin-1-yl)-3-[4-(3-hydroxy-1-methylpropyl)phenyl]isoquinoline oxalate | 0.32 g | C(C(=O)O)(=O)O.C(C)N1CCN(CC1)C1=NC(=CC2=CC=CC=C12)C1=CC=C(C=C1)C(CCO)C | InChI=1S/C25H31N3O.C2H2O4/c1-3-27-13-15-28(16-14-27)25-23-7-5-4-6-22(23)18-24(26-25)21-10-8-20(9-11-21)19(2)12-17-29;3-1(4)2(5)6/h4-11,18-19,29H,3,12-17H2,1-2H3;(H,3,4)(H,5,6)
